US07674822B2
A solution of methyl 6-chloro-3-{ [(trifluoromethyl)sulfonyl]oxy}-1-benzothiophene-2-carboxylate (2.0 g, 5.3 mmol) and triethylamine (890 μL, 1.2 eq), in dichloromethane (45 mL) was cooled to −20° C. and methyl thioglycolate(908 μL, 2.5 eq) was added dropwise via syringe pump over 5 h. The reaction was allowed to warm to room temperature overnight. The solution was diluted with water, and ethyl acetate, washed with water and brine, dried, filtered, evaporated, and flash chromatographed (10-20% ethyl acetate/hexanes) to provide methyl 6-chloro-3-[(cyanomethyl)thio]-1-benzothiophene-2-carboxylate (1.01 g, 64%) as a white solid.

reactant | methyl 6-chloro-3-{ [(trifluoromethyl)sulfonyl]oxy}-1-benzothiophene-2-carboxylate | 5.3 mmol, 2.0 g | ClC1=CC2=C(C(=C(S2)C(=O)OC)OS(=O)(=O)C(F)(F)F)C=C1 | C11H6ClF3O5S2
reactant | triethylamine | 890 μL, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | methyl thioglycolate | 908 μL, 2.5 eq | C(CS)(=O)OC | C3H6O2S
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-chloro-3-[(cyanomethyl)thio]-1-benzothiophene-2-carboxylate | 1.01 g, 64% | ClC1=CC2=C(C(=C(S2)C(=O)OC)SCC#N)C=C1 | C12H8ClNO2S2
